US04539325
To a stirred mixture of 12.76 parts of (Z)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole mononitrate, 120 parts of water and 70 parts of 2,2'-oxybispropane were added 3.5 parts of ammonium hydroxide. The whole was stirred till homogeneous. The layers were separated. The aqueous phase was extracted with 35 parts of 2,2'-oxybispropane. The combined organic layers were washed with water, dried, filtered and evaporated in vacuo. The residue was converted into the hydrochloride salt in 64 parts of 2-propanone. The salt was filtered off, washed with 2-propanone and dried in vacuo, yielding 8.54 parts of (Z)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole monohydrochloride; mp. 178.8° C. (compound 3).

reactant | (Z)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole mononitrate | [N+](=O)(O)[O-].Cl\C(=C/N1C=NC=C1)\C1=C(C=C(C=C1)Cl)Cl
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | (Z)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole monohydrochloride | Cl.Cl\C(=C/N1C=NC=C1)\C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C11H7Cl3N2.ClH/c12-8-1-2-9(10(13)5-8)11(14)6-16-4-3-15-7-16;/h1-7H;1H/b11-6-;
